US08466200B2
3-(3-Adamantan-2-yl-ureido)-2-methyl-benzoic acid
A solution of 3-(3-Adamantan-2-yl-ureido)-2-methyl-benzoic acid methyl ester 70 mg (0.204 mmol), 0.408 ml NaOH 1N in 2 ml methanol was stirred overnight at 55° C. The mixture was concentrated, diluted with water and extracted with ethyl acetate. The aqueous phase was acidified to pH 1 and the precipitate was filtered and dried under vacuum to give 53 mg (79%) as white solid.

reactant | 3-(3-Adamantan-2-yl-ureido)-2-methyl-benzoic acid methyl ester | 0.204 mmol, 70 mg | COC(C1=C(C(=CC=C1)NC(=O)NC1C2CC3CC(CC1C3)C2)C)=O | C20H26N2O3
reactant | NaOH | 1N, 0.408 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 3-(3-Adamantan-2-yl-ureido)-2-methyl-benzoic acid | C12C(C3CC(CC(C1)C3)C2)NC(NC=2C(=C(C(=O)O)C=CC2)C)=O | C19H24N2O3
